Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8])[C:10](=[O:9])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[C:8]2[O:9][C@@:10]12[H:11],0.57488582598
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:4],1.37781201789
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]#[C:4][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.90958058255
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:7]([H:8])[H:9].[O:1]=[C:2]=[C:3][O:4][C:5][H:6],8.2502324866
[O:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],6.991607449710001
[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:7][H:8]>>[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:7][H:8],2.1444143977700003
[C:1].[O:2][C:3]#[C:4][O:5]>>[C:1][O:2][C:3]=[C:4]=[O:5],-5.48808051863
[H:1][O:2][O:3][C@@:4]([H:5])([C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](\[H:5])(=[C:6]\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][O:3],0.38231642004
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:5],1.73943333335
[H:10].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])[H:9])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.5847055248
[C:1]#[C:2][O:3][C:4]([H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:8].[O:7],6.03874239028
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([H:3])[H:4].[C:5](\[H:6])([O:7][H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-1.53407314259
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][H:8].[C:9]([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-8.53969754681
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.95195403671
[H:1][C:2]([H:3])[C:4](=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.4761932458700002
[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.6527151128199993
[H:1][O:2][C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2]=[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],2.64931802285
[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13],4.66569078678
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[H:11].[H:7],1.78463529087
[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.11658621916
[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10],-4.8994137680900005
[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.07359160037
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[O:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11],1.42705684164
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[O:11],0.6939736840899999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.7455734210400005
[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-3.77882103857
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5],3.91513337543
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],2.5324181923
